US06734301B2
(Chart D, Step 4): A dry round bottom flask is charged with 3-benzyl-11-(2-phenoxyethyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole (317 mg, 0.80 mmol), ammonium formate (254 mg, 4.0 mmol), methanol (18 mL) and dichloromethane (3.2 mL). After the addition of 10% Pd/C (64 mg) the reaction is stirred at ambient temperature for two days. The reaction mixture is filtered through a pad of celite, and the catalyst is rinsed with methanol. The filtrates are combined and concentrated to 380 mg of a crude solid. This material is recrystallized from ethyl acetate/methanol/ethyl ether to afford 239 mg of 11-(2-phenoxyethyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole as a white solid. IR (drift) 3026, 3015, 2998, 2983, 2948, 2910, 2869, 2806, 2781, 2752, 1468, 1451, 1245, 755, 746 cm−1.

reactant | 3-benzyl-11-(2-phenoxyethyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 0.80 mmol, 317 mg | C(C1=CC=CC=C1)N1CCN2C(=C(C=3C=CC=CC23)CCOC2=CC=CC=C2)CC1 | C27H28N2O
reactant | ammonium formate | 4.0 mmol, 254 mg | C(=O)[O-].[NH4+]
reactant | methanol | 18 mL | CO | CH4O
catalyst | Pd/C | 64 mg | [Pd] | Pd
solvent | dichloromethane | 3.2 mL | ClCCl | CH2Cl2
product | 11-(2-phenoxyethyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 239 mg | O(C1=CC=CC=C1)CCC1=C2N(C=3C=CC=CC13)CCNCC2 | C20H22N2O
